US06300501B1
Step 1: o-Bromo-nitrostyrene
To a solution of o-bromo-benzaldehyde (4 g, 21.6 mmol) and nitromethane (1.32 g, 21.6 mmol) in methanol (5 mL) was added NaOH (0.908 g, 22.7 nmol) in 1 mL of H2O. After 45 minutes, the precipitate was dissolved in 10 mL of H2O. The product precipitated out after the addition of 6N HCl. The product was recrystallized from ethanol; 0.312 g (6%).

reactant | o-bromo-benzaldehyde | 21.6 mmol, 4 g | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | nitromethane | 21.6 mmol, 1.32 g | [N+](=O)([O-])C | CH3NO2
reactant | NaOH | 22.7 nmol, 0.908 g | [OH-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
solvent | H2O | 1 mL | O | H2O
solvent | H2O | 10 mL | O | H2O
product | o-Bromo-nitrostyrene | BrC1=C(C=C[N+](=O)[O-])C=CC=C1 | C8H6BrNO2
